US09108966B2
n-BuLi was added dropwise to a solution of TMSCHN2 (690 mL, 1.38 mol) in dry THF (3 L) (600 mL, 1.5 mol) at −78° C., and the mixture was stirred at −78° C. for 30 min. The mixture was then transferred to a solution of (S)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate (300 g, 1.17 mol) in dry THF (3 L) via cannula, and the mixture was stirred at −78° C. for 30 mM The reaction mixture was then quenched with sat. NH4Cl solution, and extracted with DCM three times. The combined organic layer was concentrated in vacuum and the crude product was purified by silica gel column chromatography (3:1 petroleum ether:EtOAc) to afford (S)-ethyl 2-((tert-butoxycarbonyl)amino)-6-diazo-5-oxohexanoate (262 g, 75%) as a yellow solid.

reactant | n-BuLi | [Li]CCCC
reactant | TMSCHN2 | 1.38 mol, 690 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (S)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate | 1.17 mol, 300 g | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OCC | C12H19NO5
solvent | THF | 3 L | C1CCOC1 | C4H8O
solvent | THF | 1.5 mol, 3 L | C1CCOC1 | C4H8O
product | (S)-ethyl 2-((tert-butoxycarbonyl)amino)-6-diazo-5-oxohexanoate | 262 g, 75% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)CCC(C=[N+]=[N-])=O | C13H21N3O5
